US07592373B2
4.6.b. [2-(2-chloro-4-aminophenoxy)propyl]diethylamine
Prepared analogously to Example 3.1.b. from [2-(2-chloro-4-nitrophenoxy)propyl]diethylamine in methanol in a reaction time of 8 hours. Yield: 6.7 g (93.5% of theory); C13H21ClN2O (M=256.77); calc.: molecular ion peak (M+H)+: 257/259; found: molecular ion peak (M+H)+: 257/259; Rf value: 0.4 (silica gel, dichloromethane/methanol/ammonia (50:10:0.1)).

reactant | [2-(2-chloro-4-nitrophenoxy)propyl]diethylamine | ClC1=C(OC(CN(CC)CC)C)C=CC(=C1)[N+](=O)[O-] | C13H19ClN2O3
reactant | dichloromethane methanol ammonia | ClCCl.CO.N
solvent | methanol | CO | CH4O
product | [2-(2-chloro-4-aminophenoxy)propyl]diethylamine | ClC1=C(OC(CN(CC)CC)C)C=CC(=C1)N | C13H21ClN2O
